US07173043B2
According to the method in example 10, 6-(4-Bromo-butoxy)-3-(4-chloro-phenyl)-benzo[d]isothiazole 1,1-dioxide and Azetidine were converted to yield 6-(4-Azetidin-1-yl-butoxy)-3-(4-chloro-phenyl)-benzo[d]isothiazole 1,1-dioxide, MS: 405 (MH+, 1Cl).

reactant | 6-(4-Bromo-butoxy)-3-(4-chloro-phenyl)-benzo[d]isothiazole 1,1-dioxide | BrCCCCOC1=CC2=C(C(=NS2(=O)=O)C2=CC=C(C=C2)Cl)C=C1 | C17H15BrClNO3S
reactant | Azetidine | N1CCC1 | C3H7N
product | 6-(4-Azetidin-1-yl-butoxy)-3-(4-chloro-phenyl)-benzo[d]isothiazole 1,1-dioxide | N1(CCC1)CCCCOC1=CC2=C(C(=NS2(=O)=O)C2=CC=C(C=C2)Cl)C=C1 | C20H21ClN2O3S
